US04262004
10 Parts of 2,3-dihydroimidazo[2,1-b]benzothiazole mononitrate are added portionwise to 55.2 parts of concentrated sulfuric acid at 0° C. Upon completion, stirring is continued for 30 minutes at room temperature. The reaction mixture is poured onto crushed ice and the whole is alkalized with ammonium hydroxide at a temperature below 20° C. The product is extracted with a mixture of trichloromethane and methanol (90:10 by volume). The extract is washed with water, dried, filtered and evaporated. The residue is crystallized from 160 parts of 1-butanol. The product is filtered off and dried, yielding 8 parts (80%) of 2,3-dihydro-7-nitroimidazol[2,1-b]benzothiazole; mp. 238.9° C.

reactant | 2,3-dihydroimidazo[2,1-b]benzothiazole mononitrate | [N+](=O)(O)[O-].N=1CCN2C1SC1=C2C=CC=C1
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2,3-dihydro-7-nitroimidazol[2,1-b]benzothiazole | 80% | [N+](=O)([O-])C1=CC2=C(N3C(S2)=NCC3)C=C1 | C9H7N3O2S
